US04621901
A solution of 2.9 g of trans-4-(4-pentenyl)cyclohexanecarbonitrile in 80 ml of diethylene glycol was treated with 8.0 g of potassium hydroxide and the mixture was stirred for 3.5 hours at a bath temperature of 180° C. Subsequently, the reaction mixture was treated with ice, made acid with 25 ml of 25% hydrochloric acid and partitioned in methylene chloride/water. The aqueous phase was extracted three times with methylene chloride. The organic phases were washed twice with water, dried over magnesium sulphate, filtered and concentrated. Chromatographic separation of the brown, oily residue (3.5 g) on silica gel with ethyl acetate/petroleum ether (vol. 10:90) gave 2.9 g (90%) of trans-4-(4-pentenyl)cyclohexanecarboxylic acid as a yellowish oil.

reactant | trans-4-(4-pentenyl)cyclohexanecarbonitrile | 2.9 g | C(CCC=C)[C@@H]1CC[C@H](CC1)C#N | C12H19N
reactant | potassium hydroxide | 8.0 g | [OH-].[K+]
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | diethylene glycol | 80 ml | C(COCCO)O | C4H10O3
product | trans-4-(4-pentenyl)cyclohexanecarboxylic acid | 2.9 g, 90% | C(CCC=C)[C@@H]1CC[C@H](CC1)C(=O)O | C12H20O2
